US07550507B2
Preparation of dl-Sodium-2-(α-hydroxypentyl)benzoate
The sodium dl-2-(α-hydroxypentyl)benzoate as prepared in the above Examples 5 till 8 procedures is a foamed white solid.

reactant | sodium | [Na] | Na
reactant | 2-(α-hydroxypentyl)benzoate | OC(CCCC)C1=C(C(=O)[O-])C=CC=C1
product | Sodium 2-(α-hydroxypentyl)benzoate | [Na].OC(CCCC)C1=C(C(=O)[O-])C=CC=C1 | InChI=1S/C12H16O3.Na/c1-2-3-8-11(13)9-6-4-5-7-10(9)12(14)15;/h4-7,11,13H,2-3,8H2,1H3,(H,14,15);/p-1
